US06291464B1
To a solution of N-piperazinyl-p-fluorobenzamide hydrobromide (300 mg) in 1N aqueous solution of sodium hydroxide (3 ml) and dioxane (3 ml) was added crotonic anhydride (0.22 ml) at ambient temperature, and the solution was stirred at the same temperature for 1 hour. After removal of the solvent in vacuo, the residue was dissolved into ethyl acetate and washed with brine (×2). The organic layer was separated, dried over magnesium sulfate, and concentrated. The residue was crystallized from ethyl acetate-diethyl ether to give N-(4-crotonoyl-1-piperazinyl)-p-fluorobenzamide (0.15 g).

reactant | N-piperazinyl-p-fluorobenzamide hydrobromide | 300 mg | Br.N1(CCNCC1)NC(C1=CC=C(C=C1)F)=O
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
reactant | crotonic anhydride | 0.22 ml | C(\C=C\C)(=O)OC(\C=C\C)=O | C8H10O3
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | N-(4-crotonoyl-1-piperazinyl)-p-fluorobenzamide | 0.15 g | C(\C=C\C)(=O)N1CCN(CC1)NC(C1=CC=C(C=C1)F)=O | C15H18FN3O2
